US04777267
Synthesis of 2-chloro-5-[(5-methyl-2-oxo-1,3-dioxol-4-yl)methylthio]benzoic acid
In 80 ml of dichloromethane was dissolved 4.0 g of 4-chloromethyl-5-methyl-1,3-dioxol-2-one, and 5.1 g of 2-chloro-5-mercaptobenzoic acid (synthesized in accordance with the method described in Swiss Pat. No. 426,865, C.A. 68.P68728c (1968)] was added. Then, 5.6 g of triethylamine was added, and the mixture was stirred at room temperature for 1 hour. After the reaction, the solvent was evaporated under reduced pressure, and the residue was subjected to medium-pressure silica gel column chromatography as in Example 1 [except that the column was prepared by using chloroform/methanol (10/1, v/v)]. Fractions of the main product obtained were concentrated to dryness under reduced pressure and the residue was dissolved in chroroform, and shaken with dilute hydrochloric acid. The chloroform layer was concentrated to dryness under reduced pressure, and then the residue was recrystallized from ethanol to give 4.8 g of the captioned compound as colorless crystals.

reactant | 4-chloromethyl-5-methyl-1,3-dioxol-2-one | 4.0 g | ClCC=1OC(OC1C)=O | C5H5ClO3
reactant | 2-chloro-5-mercaptobenzoic acid | 5.1 g | ClC1=C(C(=O)O)C=C(C=C1)S | C7H5ClO2S
reactant | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2-chloro-5-[(5-methyl-2-oxo-1,3-dioxol-4-yl)methylthio]benzoic acid | 4.8 g | ClC1=C(C(=O)O)C=C(C=C1)SCC=1OC(OC1C)=O | C12H9ClO5S
